US08669361B2
Following the procedure for Example 55, starting with 3,3-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine and 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid, gave tert-butyl 2-(2,6-difluorophenyl)-4-(5-(3,3-difluoropiperidin-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a cream solid (57 mg, 20%). 1H NMR (400 MHz, CDCl3) δ 10.33 (s, 1H), 8.67 (s, 1H), 7.71 (s, 1H), 7.41-7.32 (m, 1H), 7.11-7.01 (m, 2H), 3.76 (s, 3H), 3.32 (t, J=11.0 Hz, 2H), 3.19-3.13 (m, 2H), 2.10-1.97 (m, 2H), 1.94-1.85 (m, 2H), 1.53 (s, 9H).

reactant | 3,3-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine | FC1(CN(CCC1)C1=C(C=NN1C)[N+](=O)[O-])F | C9H12F2N4O2
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
product | tert-butyl 2-(2,6-difluorophenyl)-4-(5-(3,3-difluoropiperidin-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 57 mg, 20% | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CC(CCC1)(F)F)C)=O)NC(OC(C)(C)C)=O | C24H26F4N6O3S
